* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8235.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N005 N004 N003 N002 N001 0 N006 OUT +V AD8235
Rgain N003 N004 84.5K
Vdiff N002 N005 SINE(0 .1 1K)
Vcm N005 0 2.5
Vref N006 0 2.5
Vsdn N001 0 PULSE(0 5 1m 1u 1u 10m 20m 10)
V1 +V 0 5
Rload OUT 0 10K
.tran 100m
.lib AD8235.lib
.backanno
.end
