* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8236.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N004 N003 N002 N001 0 N005 OUT +V AD8236
Vcm N004 0 2.5
Vref N005 0 2.5
V1 +V 0 5
Rload OUT 0 10K
Vdiff N001 N004 SINE(0 .1 1K)
Rgain N002 N003 84.5K
.tran 100m
.lib ADI1.lib
.backanno
.end
