* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8237.asc
* Generated by LTspice 24.1.9 for Windows.
V1 Vs+ 0 5
V2 Vs- 0 0
V3 Vref 0 2.5
V4 N001 0 2.5
V5 Vin+ N001 SINE(0 10m 1k)
V6 N001 Vin- SINE(0 10m 1k)
X§U1 Vs- Vin+ Vin- Vs- Vs+ Vref N002 Vout AD8237
R1 Vref N002 1k
R2 Vout N002 9k
* Configured for\ngain of 10V/V
* Note:\nIn high bandwidth mode,\nreal part has instability for G < 10 V/V
.tran 5m
.lib AD8237.lib
.backanno
.end
