* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8253.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 -IN 0 -VS N002 N001 -VS OUT +VS 0 +IN AD8253
V§-VS -VS 0 -15
V§+VS +VS 0 15
RL OUT 0 2k
E1 +IN 0 IN 0 0.5
E2 0 -IN IN 0 0.5
VIN IN 0 SINE(0 10m 1k)
VA1 N001 0 {A1}
VA0 N002 0 {A0}
.tran 2m
.param A0 = table(index, 1, 0, 2, 5, 3, 0, 4, 5)
.param A1 = table(index, 1, 0, 2, 0, 3, 5, 4, 5)
.step param index list 1 2 3 4
.lib AD8253.lib
.backanno
.end
