* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8310.asc
* Generated by LTspice 24.1.9 for Windows.
C1 INHI N004 10n
C2 INLO 0 10n
V1 N003 0 SINE(0 {2*pow(10,dBV/20)} {fin})
V4 N002 0 5
V3 N001 0 5
C3 N005 0 10p
C4 N006 0 10p
X§U1 INLO 0 N006 vOUT N001 N005 N002 INHI AD8310
R2 N003 N004 50
R1 N004 0 52.3
R3 vOUT 0 10Meg
.tran 400n
* RF Signal Generator
.param fin=1e8
.param dBV 10
.lib AD8310.lib
.backanno
.end
