* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8336.asc
* Generated by LTspice 24.1.9 for Windows.
R1 OUT 0 500
R2 INPN 0 100
R3 PRAO INPN 301
V2 N002 0 {Vgain}
V3 PWRA 0 0
V4 VPOS 0 5
V5 N001 0 -5
V1 INPP 0 0 AC 1
X§U1 OUT PWRA 0 INPP INPN PRAO PRAO N001 N002 0 VPOS AD8336
.op
.ac dec 20 100k 500Meg
.step param Vgain list -0.7 -0.5 -0.2 0 0.2 0.5 0.7
.lib AD8336.lib
.backanno
.end
