* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8397.asc
* Generated by LTspice 24.1.9 for Windows.
Vcc Vcc 0 5
Vee 0 Vee 5
Vcm VOS+ 0 SINE(0 1 1k)
R1 VOS- 0 100
X§U1 VOS+ VOS- Vcc Vee VOS- AD8397
.tran 5m
.lib AD8397.sub
.backanno
.end
