* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8421.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
Vin V+ V- SINE(0 1m 10K)
R1 N001 N002 100
V2 -V 0 0
Rload OUT 0 10K
Vcm V- 0 PWL(0 2.4 2.5m 3.1 5m 2.4)
Vref N003 0 2.5
X§U1 V- N001 N002 V+ -V N003 OUT +V AD8421
.tran 5m
.lib AD8421.lib
.backanno
.end
