* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8436.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N003 NC_01 N004 N004 N006 NC_02 IGND 0 N005 N005 DCOUT DCOUT VCC VCC VEE VCC N002 N001 AD8436
C2 0 N005 3.3µ
V3 VEE 0 -2.5
C3 VCC N002 0.1µ
C4 VCC N001 10µ
V2 VCC 0 2.5
V1 IN 0 SINE(0 {1*sqrt(2)} 1k)
C5 N003 IN 0.47µ
R1 N003 IGND 10Meg
C1 N004 N006 10µ
.tran 1
.lib AD8436.sub
.backanno
.end
