* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8452.asc
* Generated by LTspice 24.1.9 for Windows.
R1 0 N013 4.02K
R2 0 N015 100K
R3 0 N016 499K
R4 0 N018 10K
C1 0 ss 10n
R5 N024 N025 499K
R6 N024 N026 10K
R7 N024 N027 10K
V1 N010 0 12
V2 N028 0 -5
R8 N006 N004 1K
R9 N007 N006 64.9K
R10 N008 N007 15K
C2 N007 N006 1n
C3 N003 N007 270p
C4 N003 N008 2n
R11 N001 N004 1K
R12 N002 N001 64.9K
R13 N005 N002 15K
C5 N002 N001 1n
C6 N003 N002 270p
C7 N003 N005 2n
R14 N037 N038 6.65K
R15 N034 N037 78.7K
R16 N036 N034 121K
C8 N034 N037 560p
C9 0 N034 39p
C10 0 N036 1n
R20 N024 N029 10K
V3 N019 0 12
S1 N023 N019 N021 0 FET_SW
S2 0 N023 N022 0 FET_SW
D1 N023 N019 BD
D2 0 N023 BD
L1 N023 N012 6.8µ Rser=5m
R21 N012 N011 5m
C14 N019 N023 500p
C15 N023 0 500p
C16 N011 0 150µ x4
R22 N011 BATT 3m
C17 BATT 0 .3 Rser=10m
R24 N014 0 10K
V4 N031 0 5
V5 N030 0 5
V6 N009 0 1.98
V7 N032 0 1.68
R17 N039 N038 6.65K
R18 N035 N039 78.7K
R19 N040 N035 121K
C11 N035 N039 560p
C12 N033 N035 39p
C13 N033 N040 1n
R25 N043 N042 6.65K
R26 N041 N043 78.7K
R27 N044 N041 121K
C18 N041 N043 560p
C19 N033 N041 39p
C20 N033 N044 1n
X§U1 0 0 MP_01 N017 N020 BATT MP_02 0 MP_03 0 MP_04 0 N028 N032 N034 N038 N042 N041 N035 N033 MP_05 N031 N030 N029 N027 N026 N025 N024 N019 N022 N021 0 N018 ss N016 N015 N013 N012 N011 N010 N003 N007 N002 N004 N009 MP_06 0 N014 AD8452
R23 N017 N011 10K
R28 N020 BATT 10K
C21 N017 N020 1n
C22 0 N017 100p
C23 N020 0 100p
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
* Simple Battery Model
.ic V(batt)=3.2
.tran 50m
.model FET_SW SW(Ron=2m Roff=1G Vt=2 Vh=50m)
.model BD D(Ron=10m Roff=1G epsilon=10m Vfwd=0.35)
* Voltage Setpoint
* Current Setpoint
* Charge CC Loop
* Discharge CC Loop
* Charge CV Loop
* Discharge CV Loop
* Mode
* Enable
.lib AD8452.sub
.backanno
.end
