* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8460.asc
* Generated by LTspice 24.1.9 for Windows.
V§HVEE N007 0 -50
RterrmP INP 0 50
RL OUT 0 10k
C1 N006 0 0.1µ
Rset N008 0 2k
V§HVCC N003 0 50
RtermN 0 INN 50
VCC_5V N001 0 5
VDAC VDAC 0 PWL(0 -1 1 -1 1.001 0 2 0 2.001 1 3 1)
R4 VDAC 0 10k
Ccomp_H OUT N004 {Ccomp}
Ccomp_L OUT N005 {Ccomp}
X§U1 VDAC OC_SRC_ALARM OC_SNK_ALARM OV_POS_ALARM OV_NEG_ALARM N006 N008 INP INP 0 N007 OV_NEG_LIMIT OV_POS_LIMIT OC_SNK_LIMIT OC_SRC_LIMIT N005 OUT N004 SDN_IO 0 N003 INN INN N002 N002 N001 N001 AD8460 Ccomp={Ccomp} SetIQ={SetIQ}
.tran 3
* AD8460 Example Circuit
* LIMIT set by applying DC Voltage Source to LIMIT\nAny LIMIT left open will not cause an ALARM
* SDN_IO and SDN_RESET\nFunction per datasheet\nSDN_RESET high>1.65V, low<1.65V
* ALARM high (1V) indicates  FAULT is present\nALARM low (0V) indicates NO FAULT is present\nALARMs are not latched and indicate real time FAULT/NO FAULT
* External Comp Caps:\nCcomp_H must equal Ccomp_L\nMust enter Ccomp value in:\n.param Ccomp= value
* VDAC & Trimmed Gain (Rterm=50ohms):\nVDAC   Code     IOUTP  IOUTN  Gain  OUT\n-1V        0           0           IoutFS  40     -40V\n+1V      16383  IoutFS   0           40    +40V
.param Ccomp=0p
.param SetIQ=22.5m
* For LTspice User Guide - AD8460 Model go to:\nhttps://wiki.analog.com/resources/quick-start
.lib AD8460.sub
.backanno
.end
