* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8475.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 NC_01 0 +VS VOCM N002 N001 0 +IN NC_02 AD8475
VS +VS 0 5
VOCM VOCM 0 2.5
R1 -OUT N001 20
R2 +OUT N002 20
C1 +OUT 0 270p
C2 0 -OUT 270p
VIN +IN 0 SINE(0 10 10k)
.tran 200u
.lib AD8475.lib
.backanno
.end
