* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8479.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N002 0 SINE(0 10 500)
V2 +V 0 15
V3 -V 0 -15
V4 N001 N002 SINE(0 5 1K)
R1 OUT 0 10K
X§U1 0 N001 N002 -V 0 OUT +V AD8479
.tran 10m
.lib ADI.lib
.backanno
.end
