* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8541.asc
* Generated by LTspice 24.1.9 for Windows.
VREF Vref 0 2.5
VS V+ 0 5
X§U1 Vref N001 V+ 0 Vout AD8541
R2 Vout N001 1Meg
VIN Vin 0 SINE(2.5 1 5k)
R1 N001 Vin 1k
.tran 1m
* Comparator Function
.lib AD8541.lib
.backanno
.end
