* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8561.asc
* Generated by LTspice 24.1.9 for Windows.
V+ V+ 0 5
RL2 Q 0 10k
RL1 _Q 0 10k
Vin- IN- 0 1
Vin+ IN+ 0 PULSE(0 1.5 5u 0.1n 0.1n 10u 20u)
X§U1 IN+ IN- V+ 0 LATCH 0 Q _Q AD8561
Vlatch LATCH 0 PWL(0 0 10u 0 +1n 3 30u 3 +1n 0)
.tran 50u
.lib AD8561.lib
.backanno
.end
