* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8614.asc
* Generated by LTspice 24.1.9 for Windows.
Vin IN 0 SINE(0 1 10K)
X§U1 IN OUT +V -V OUT AD8614
Cload OUT 0 47n
Rx OUT N001 5
Cx N001 0 10µ
V1 +V 0 5
V2 -V 0 -5
.tran 1m
.lib ADI.lib
.backanno
.end
