* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8618.asc
* Generated by LTspice 24.1.9 for Windows.
Vin IN 0 SINE(0 1 500K)
R1 N001 0 1K
R2 OUT N001 1K
Rload OUT 0 2K
V1 +V 0 5
V2 -V 0 -5
X§U2 IN N001 +V -V OUT AD8618
.tran 20u
.lib AD8618.lib
.backanno
.end
