* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8412A.asc
* Generated by LTspice 24.1.9 for Windows.
Rshunt -IN +IN 0.001
VS N001 0 5
VCM +IN 0 48
Iload -IN 0 PWL(0 0 +250m -50 +500m 50 +250m 0)
VREF1 N002 0 5
VREF2 N003 0 0
X§U1 -IN 0 N003 OUT N001 N002 +IN AD8412A
* Current Sense Output
.tran 1
* Ishunt\n-50A to 50A
* Current Sensing
* Bidirectional Operation: \n          REF1 = VS, REF2 = GND\nUnidirectional Operation: \n          VS Referenced:    REF1=REF2 = VS            \n          GND Referenced: REF1=REF2 = GND
.lib AD8412A.sub
.backanno
.end
