* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8418A.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N003 0 0 OUT N001 N001 N002 AD8418A
V1 N001 0 5
VCM N003 0 4
VDIFF N002 N003 SINE(0 0.1 1k)
.tran 10m
.lib ADI1.lib
.backanno
.end
