* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD3530R.asc
* Generated by LTspice 24.1.9 for Windows.
RLOAD vOUT 0 1k
CLOAD vOUT 0 15n
Vdac vDAC 0 PWL(10u 0 +1u 1.875)
V1 Vdd 0 3.3
X§U1 vDAC Vdd 0 vOUT AD3530R Gain=1
.tran 50u
.lib AD3530R.sub
.backanno
.end
