* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD3542R.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N002 0 5
V2 N001 0 5
V3 N004 0 -5
R1 Vout 0 1k noiseless
V4 vDAC 0 SINE(1.25 1.25 1MEG)
V5 NC_01 0 2.5
V6 NC_02 0 PWL(0 0 2u 0 +1n 2.5)
C1 Vout N003 10p
X§U2 Vout NC_03 Vout Vout vDAC N001 0 N002 N004 N003 AD3542R RANGE_SEL=0
.tran 0 5u 0 1n
* .noise V(Vout) V5 dec 10 0.1 1g
* VDAC input should be within the range 0 to 2.5V\nRANGE_SEL should be an integer within 0 to 4
* Range              RFB            RANGE_SEL \n0 to 2.5V            1x                       0           \n0 to 5V               1x                       1\n0 to 10V             2x                       2\n-5 to 5V              2x                       3\n-2.5 to 7.5V        2x                       4
.lib AD3542R.sub
.backanno
.end
