* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD3552R.asc
* Generated by LTspice 24.1.9 for Windows.
V2 VREF 0 2.5
V1 VDD 0 5
V3 dac_ip 0 SINE(1.25 1.25 1MEG)
V4 V+ 0 12
V5 V- 0 -12
V6 NC_01 0 0
V7 NC_02 0 PWL(0 0 2u 0 +1n 2.5)
X§U2 VREF inm V+ V- Vout AD8065
C1 Vout inm 4.7p
X§U3 Vout NC_03 Vout inm dac_ip VDD 0 AD3552R GAIN_SCALING_P=0 GAIN_SCALING_N=0 OFFSET_POLARITY=1 OFFSET=0
.tran 0 5u 0 1n
* .noise V(Vout) V3 dec 10 0.1 1g
* VDAC input should be within the range 0 to 2.5V
* Range              RFB            GAIN_SCALING_P           GAIN_SCALING_N          OFFSET_POLARITY                  OFFSET\n0 to 2.5V            1x                       0                                              3                                         -1                                 48\n0 to 5V               1x                       0                                              0                                         X                                      0\n0 to 10V             2x                       0                                              0                                          1                                 496\n-5 to 5V              2x                       0                                              0                                         -1                                 496\n-10 to 10V          4x                       0                                              0                                         -1                                 247
.lib AD3552R.sub
.lib AD8065.lib
.backanno
.end
